Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admitted for heart failure optimization following ICD generator 
change
 
Major Surgical or Invasive Procedure:
___: ICD generator exchange

 
History of Present Illness:
___ with dilated cardiomyopathy (LVEF 10%), bioprosthetic MVR 
replacement, tachy-brady syndrome s/p DDD pacemaker (___) on 
___, ___ s/p ___ ICD (most recent shock 
delivered ___, EtOH cirrhosis with history of GI bleeds with 
multiple transfusions, CKD stage V, who presents to the heart
failure service following successful ICD generator change. 

The patient is new to the ___ system, but has been followed by 
cardiology at ___ and most recently at 
___ for his HFrEF and history of 
tachy-brady syndrome and VT. 

On the floor, the patient reports ___ throbbing pain over the 
incision site which is bandaged over the left superior chest 
since the surgery this AM. He has not been OOB since prior to 
surgery. He has chronic dizziness for months but no 
palpitations, syncope, pre-syncope. No SOB, orthopnea, PND, 
cough. Reported weight today 166, says dry weight is 160-170 
i/s/o abdominal
swelling since ___. Says he has been tapped "from the back" 
in the past and records show ___ thoracentesis, no record of 
paracentesis. Reported prior dry weight 145 lbs before abdominal 
swelling. No fevers/chills, neck pain, vision changes. No abd 
pain, n/v/diarrhea/bloody or dark stools. No dysuria/hematuria. 
No skin changes. No sick contacts, recent travel.
 
Past Medical History:
- Hypertension  
- Dyslipidemia 
- Tachy-brady syndrome 
- History of VT
- HFrEF: EF 10%. Echo ___: EF 10%, global systolic
dysfunction, diffuse systolic hypokinesis, dilated LV/RV/LA, no
change from prior study (___).  
- Alcoholic cirrhosis: abstinent from alcohol for ___ years
- GI bleed: s/p multiple transfusions. No evidence of varices on
EGD ___.
- CKD stage 5: unclear if cardiorenal or hepatorenal
- Gout: takes standing allopurinol and Advil PRN at home
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
BP: 117/76 (116-119/69-76), HR: 71 (70-71), O2 sat: 99% (98-99) 
RA 
Wt: 167.7 lb/76.07 kg  
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera mildly icteric. PERRL.
EOMI. Conjunctiva were pink. Jaundice of oral mucosa. No 
xanthelasma.  
NECK: Supple. JVP not appreciated when sitting upright.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. regular rate and rhythm. Normal S1, S2. Systolic murmur 
over tricuspid area. No rubs, gallops. Diastolic click shortly 
after S2 c/w MVR.  
Chest: L chest wall dressing clean and dry. No erythema or 
purulence around dressing. Non-tender to light palpation. No 
hematoma.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender. Distended. No hepatomegaly 
appreciated. No splenomegaly appreciated. No fluid wave 
appreciated.
EXTREMITIES: Lukewarm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes. No dependent edema 
of legs or sacrum.
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 750)
    Temp: 97.9 (Tm 98.4), BP: 99/65 (90-109/52-71), HR: 72
(64-72), RR: 13 (___), O2 sat: 100% (97-100), O2 delivery: RA 

GENERAL: Well developed, well nourished male in NAD. Sleeping on 
bed.
HEENT: Normocephalic atraumatic. Sclera mildly icteric. 
NECK: Supple. JVP ~10cm.
CARDIAC: RRR, +s1, paradoxically split s2
Chest: L chest wall dressing clean and dry. No erythema or 
purulence around dressing. Mildly tender to light palpation over 
dressing and over new generator site. 
LUNGS: CTAB, no wrc, no increased wob  
ABDOMEN: Distended. Soft, non-tender. No shifting dullness.
EXTREMITIES: Warm, well-perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:26PM BLOOD WBC-8.9 RBC-3.32* Hgb-11.7* Hct-35.2* 
MCV-106* MCH-35.2* MCHC-33.2 RDW-13.6 RDWSD-53.1* Plt ___
___ 08:19AM BLOOD ___
___ 11:45AM BLOOD Glucose-89 UreaN-73* Creat-2.8* Na-137 
K-3.5 Cl-94* HCO3-25 AnGap-18
___ 05:26PM BLOOD Calcium-9.2 Phos-3.5 Mg-1.5*
___ 05:26PM BLOOD ALT-77* AST-54* TotBili-1.0
___ 05:26PM BLOOD proBNP-___*

PERTINENT LABS/MICRO/IMAGING:
============================
___ 08:19AM BLOOD Iron-56
___ 08:19AM BLOOD calTIBC-358 Ferritn-1037* TRF-275
___ 08:19AM BLOOD TSH-0.85
___ 03:05PM BLOOD Vanco-12.9

___ CXR
IMPRESSION: 
Left-sided pacemaker is unchanged.  The first 2 sternal sutures 
are fractured with a fragment extending into the left upper 
chest, unchanged in position. The there are stable small 
bilateral pleural effusions with bibasilar atelectasis.  Linear 
stranding in the right upper lobe is unchanged. No pneumothorax 
is seen

___ TTE
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a SEVERELY increased/dialted cavity. There 
is SEVERE global left ventricular hypokinesis with relative 
preservation of basal inferolateral function. No thrombus or 
mass is seen in the left ventricle. Quantitative 3D volumetric 
left ventricular ejection fraction is 14 %. There is no resting 
left ventricular outflow tract gradient. Normal right 
ventricular cavity size with moderate global free wall 
hypokinesis. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (?#) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. There is a bioprosthetic mitral valve 
with no mitral valve prolapse. The prosthesis is well-seated, 
with thin/mobile leaflets and high normal mean gradient. There 
is trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is mild to moderate [___] 
tricuspid regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a trivial pericardial effusion.

IMPRESSION: Suboptimal image quality. Severe left ventricular 
cavity dilation with severe global biventricular hypokinesis. 
Well seated bioprosthetic mitral valve with mildly increased 
gradient and no mitral
regurgitation. Mild pulmonary artery systolic hypertension.

DISCHARGE LABS:
===============
___ 07:05AM BLOOD WBC-9.6 RBC-3.37* Hgb-11.9* Hct-35.8* 
MCV-106* MCH-35.3* MCHC-33.2 RDW-13.4 RDWSD-52.3* Plt ___
___ 07:05AM BLOOD Glucose-119* UreaN-89* Creat-3.1* Na-136 
K-3.9 Cl-94* HCO3-25 AnGap-17
___ 07:59AM BLOOD ALT-85* AST-76* AlkPhos-125 TotBili-0.9
___ 07:05AM BLOOD Calcium-9.8 Phos-3.5 Mg-2.2
 
Brief Hospital Course:
PATIENT SUMMARY: 
================
___ with dilated cardiomyopathy (LVEF 14% in ___, 
bioprosthetic MVR replacement, tachy-brady syndrome s/p DDD 
pacemaker (___) on amiodarone, VT s/p ___ ICD 
(most recent shock delivered ___, EtOH cirrhosis with history 
of GI bleeds with multiple transfusions, CKD stage V, who 
presents to the heart failure service for medication 
optimization following successful ICD generator change. 
Initially received boluses of IV lasix, started on a Lasix gtt 
with PO metolazone, then transitioned back to PO torsemide 60mg.

# CORONARIES: unknown
# PUMP: HFrEF with EF 14%
# RHYTHM: tachy-brady syndrome, A and V paced, on amiodarone; 
h/o VT s/p ICD

=====================
ACTIVE ISSUES: 
===================== 
# ICD generator change:
# Tachy-___ syndrome:
# History of VT:
Patient with PPM/ICD in setting of history of tachy-___ 
syndrome and VT who was admitted for exchange of ICD generator 
on ___. Tolerated procedure well, with post-op pain 
well-controlled on prn Tylenol. Received a total of 4gm of 
vancomycin for post-op prophylaxis (___). He was continued 
on his home amiodarone. His device was interrogated as well with 
no new events. Ultimately could consider upgrading his device to 
CRT given advanced HF once HF management is optimized (see 
below), will follow up with EP outpatient.

# HFrEF (EF 10%):
History of dilated cardiomyopathy, presumed secondary to alcohol 
use. Appeared volume overloaded on admission with elevated JVP 
to 20cm. Also with abdominal distention, however bedside 
abdominal US showed no ascites (as did abdominal US ___ and 
___, followed by Dr. ___ in Hepatology who believes this is 
more likely bloating and bowel gas). At home, patient on 
standing Torsemide 20mg daily, with additional 20mg daily prn 
weight gain and metolazone 2.5mg ___. This was stopped on 
admission and he was initially given boluses of IV Lasix, 
transitioned to Lasix gtt until euvolemic on exam. Then 
transitioned to PO Torsemide 60mg. He was continued on his home 
ramapril 1.25mg daily and coreg 12.5mg BID, and started on 
spironolactone 12.5mg daily uptitrated to 25mg daily. Could 
consider for possible CRT once HF medications optimized. Of 
note, the patient initially reported a dry weight of 165-170 
lbs, and new dry weight established to be 167.1 lbs (75.8 kg). 
this admission.

# ___:
# CKD stage V:
Baseline Cr 2.7-3.1 with Cr 2.7 on admission. Cr gradually 
increased with aggressive diuresis and on discharge was 3.1.

# EtOH cirrhosis:
Patient with no noted history of varices, hepatic 
encephalopathy, or ascites. Followed by Hepatology here, next 
appointment ___. Had bedside US with no evidence of ascites 
despite abdominal distention on exam (thought to be due to 
bloating and bowel gas). 

=======================
CHRONIC ISSUES: 
=======================
# Anemia:
Macrocytic, likely secondary to liver disease. However also 
noted to have low iron, elevated ferritin, high-normal TIBC 
which could represent element of anemia of chronic disease vs. 
iron deficiency with acute phase reactant after procedure. 
Baseline hgb ___, remained at baseline during admission.

# Hypertension
Continued home carvedilol, ramipiril. Started spironolactone per 
above.

TRANSITIONAL ISSUES: 
====================
DISCHARGE WEIGHT: 163.0 lbs (73.9 kg) 
DISCHARGE Cr: 3.1
DISCHARGE K: 3.9

[ ] We started him on spironolactone despite low GFR (~26) which 
he has tolerated well with a stable K while on torsemide. We are 
discharging him with a limited script in case he misses follow 
up and doesn't have labs drawn in the near future to monitor his 
K. His prior home potassium was held. 

[ ] He has a fractured CS lead & reported RV lead malfunction. ___ 
CRT-D generator was placed this admission but he will need CS 
lead extraction & reimplantation in order to utilize CRT-D.

[ ] ___ consider Entresto if BP room allows in place of 
ramipril.

[ ] Was previously on ferrous sulfate 325mg PO TID, however on 
admission ferritin elevated to 1000 so in that setting iron 
held. Will need repeat iron studies as outpatient to decide 
whether to restart PO iron.

[ ] Please weigh the patient daily, call Dr. ___ 
(___) at ___ if weight changes by >3lbs.

NEW MEDICATIONS:
- Spironolactone 25mg daily

CHANGED MEDICATIONS:
- Torsemide 60mg daily, call cardiology if weight changes >3lbs

HELD MEDICATIONS:
- Ferrous Sulfate 325 mg PO TID (held pending repeat iron 
studies outpatient)
- Metolazone 2.5 mg PO 3X/WEEK (___) 
- Ferrous sulfate 325mg three times daily

#CODE STATUS: FULL (presumed)
#CONTACT: ___ (sister) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ramipril 1.25 mg PO DAILY 
2. Torsemide 20 mg PO DAILY 
3. Torsemide 20 mg PO DAILY:PRN if weight is greater than 82kg 
4. Potassium Chloride 20 mEq PO BID 
5. Ferrous Sulfate 325 mg PO TID 
6. Multivitamins 1 TAB PO DAILY 
7. Allopurinol ___ mg PO DAILY 
8. Calcitriol 0.25 mcg PO DAILY 
9. Amiodarone 200 mg PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 
11. Carvedilol 12.5 mg PO BID 
12. Sertraline 50 mg PO DAILY 
13. Simvastatin 20 mg PO QPM 
14. Metolazone 2.5 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth once a day Disp 
#*14 Tablet Refills:*0 
2.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Amiodarone 200 mg PO DAILY  
5.  Calcitriol 0.25 mcg PO DAILY  
6.  Carvedilol 12.5 mg PO BID  
7.  Magnesium Oxide 400 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Ramipril 1.25 mg PO DAILY  
10.  Sertraline 50 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  
12. HELD- Ferrous Sulfate 325 mg PO TID  This medication was 
held. Do not restart Ferrous Sulfate until restarted by your 
doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Heart failure with reduced ejection fraction
-Tachy-brady syndrome
-ICD generator change
-Alcoholic cirrhosis
-Acute kidney injury, chronic kidney disease stage 5

SECONDARY DIAGNOSES
-Anemia
-Bioprosthetic mitral valve replacement
-history of GI bleed
-Gouty arthritis
-Dyslipidemia
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you needed to have 
your ICD generator changed, and then you stayed in the hospital 
for further management of your heart failure.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You had a procedure to change your ICD generator on ___.
-Your ICD was analyzed and it showed that there were no new 
irregular heart rhythms.
-You were given medication through your IV to get rid of the 
excess fluid in your body.
-You were started on a new medication (spironolactone) for your 
heart failure.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all of your medications as prescribed, and 
attend all of your doctor's appointments.
-Your weight at discharge is  167.1 lbs (75.8 kg). Please weigh 
yourself when you get home. This will be your new baseline. 
-Please weigh yourself every morning, and call your cardiologist 
(Dr. ___ ___ if your weight increases by more than 
3 lbs for 2 days in a row.

We wish you all the best,
Your ___ Care Team

MEDICATION CHANGES
NEW: spironolactone 25mg daily to treat your heart failure
CHANGED: Torsemide 60mg daily to treat your heart failure
STOPPED: Metolazone 2.5mg 3x/week
STOPPED: Potassium chloride 20mg twice daily
STOPPED: Ferrous sulfate 325mg three times daily
 
Followup Instructions:
___